US07538223B2
(2S,4R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-4-hydroxypyrrolidine-1-carboxylate.
To a 0° C. solution of (2S,4R)-tert-butyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate (1.0 equiv) and Et3N (1.05 equiv) in dichloromethane (0.5 M) was added TBSCl (1.05 equiv), followed by a few crystals of DMAP. The solution was allowed to warm to room temperature and stirred overnight. The reaction mixture was then diluted with dichloromethane, and washed with sat'd. aq. NaHCO3. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to provide the title compound (95%), which was used without further purification.

reactant | (2S,4R)-tert-butyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 1.0 equiv | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C10H19NO4
reactant | Et3N | 1.05 equiv | CCN(CC)CC | C6H15N
reactant | TBSCl | 1.05 equiv | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dichloromethane | 0.5 M | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4R)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)-4-hydroxypyrrolidine-1-carboxylate | 95% | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C16H33NO4Si
